US09127007B2
(a). 2-chloro-3-methoxypyridine
To a solution of 2-chloro-pyridin-3-ol (100 g) in DMSO (1 L) was added potassium carbonate (320 g). Methyliodide was added dropwise. The reaction mixture was heated to 50° C. overnight. The reaction mixture poured into water and extracted with ethyl acetate. The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to give the desired compound.

reactant | 2-chloro-pyridin-3-ol | 100 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | potassium carbonate | 320 g | C([O-])([O-])=O.[K+].[K+]
reactant | Methyliodide | CI | CH3I
reactant | water | O | H2O
solvent | DMSO | 1 L | CS(=O)C | C2H6OS
product | 2-chloro-3-methoxypyridine | ClC1=NC=CC=C1OC | C6H6ClNO
